US06908935B2
Step 2) 2-methyl-5-bromobenzoxazole:
A solution of 2-amino-4-bromophenol (1 g, 5.32 mmol) in trimethyl orthoacetate (20 mL) was refluxed for 1.5 hours. The reaction was then cooled and the solvent removed under reduced pressure to give 1.1 g of title compound.

reactant | 2-amino-4-bromophenol | 5.32 mmol, 1 g | NC1=C(C=CC(=C1)Br)O | C6H6BrNO
reactant | trimethyl orthoacetate | 20 mL | C(C)(OC)(OC)OC | C5H12O3
product | 2-methyl-5-bromobenzoxazole | 1.1 g | CC=1OC2=C(N1)C=C(C=C2)Br | C8H6BrNO
